US05808062
6-(3,4-Dichlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3',4'-dichloroacetophenone (2.46 g, 12.8 mmol), trimethylsilyl triflate (3.0 mL, 15.4 mmol), triethylamine (3.6 mL, 26.0 mmol), methylene chloride (30 mL), and diethyl ester of [(2-isopropylphenyl)thio] propanedioic acid (4.0 g, 12.8 mmol) m.p. 204°-207° C.; 1H NMR (400 MHz, CDCl3) δ 1.33 (d, 6H), 3.55 (m, 1H), 6.71 (s, 1H), 7.00 (m, 1H), 7.08 (m, 1H), 7.20 (m, 1H), 7.30 (m, 1H), 7.56 (d, 1H), 7.69 (m, 1H), 7.74 (br, 1H), 7.98 (s, 1H).

reactant | 3',4'-dichloroacetophenone | 12.8 mmol, 2.46 g | ClC=1C=C(C=CC1Cl)C(C)=O | C8H6Cl2O
reactant | trimethylsilyl triflate | 15.4 mmol, 3.0 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 26.0 mmol, 3.6 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio] propanedioic acid | 12.8 mmol, 4.0 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 6-(3,4-Dichlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one | ClC=1C=C(C=CC1Cl)C1=CC(=C(C(O1)=O)SC1=C(C=CC=C1)C(C)C)O | C20H16Cl2O3S
